US05650428
2N NaOH (143 μl) was added to a solution of (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(pyridin-3-yloxy)propanamide (48.1 mg) in ethanol (5 ml), and the whole was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. A small amount of purified water was added to the residue, and the mixture was concentrated under reduced pressured. The concentration step was repeated 3 times to remove ethanol. The residue was dissolved in 1N HCl (20 ml), diluted with water (20 ml), and then washed 3 times with ethyl acetate (10 ml). The aqueous layer was concentrated under reduced pressure. A small amount of purified water was added, and the mixture was concentrated under reduced pressure. The concentrating step was repeated 3 times to evaporate excess HCl. The residue was dried under reduced pressure in a desiccator, and ethanol was added. The insoluble materials were removed by filtration. The combined filtrates were concentrated and dried under reduced pressure to obtain (RS)-N-(4-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(pyridin-3-yloxy)propanamide hydrochloride (21.8 mg).

reactant | NaOH | 2N, 143 μl | [OH-].[Na+]
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(pyridin-3-yloxy)propanamide | 48.1 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)C(=O)OCC)COC=1C=NC=CC1 | C23H22ClN3O6S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (RS)-N-(4-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(pyridin-3-yloxy)propanamide hydrochloride | 21.8 mg | Cl.C(=O)(O)C1=CC=C(C=C1)NC(C(COC=1C=NC=CC1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | InChI=1S/C21H18ClN3O6S.ClH/c22-15-5-9-18(10-6-15)32(29,30)25-19(13-31-17-2-1-11-23-12-17)20(26)24-16-7-3-14(4-8-16)21(27)28;/h1-12,19,25H,13H2,(H,24,26)(H,27,28);1H
